US08183246B2
6-{[5-(4-Methoxyphenyl)-6-phenylfuro[2,3-d]pyrimidin-4-yl]amino}hexanoic acid sodium salt
Dissolve 200 mg (0.464 mmol) 6-{[5-(4-methoxyphenyl)-6-phenylfuro[2,3-d]pyrimidin-4-yl]amino}hexanoic acid at RT in 0.75 ml methanol, 0.5 ml THF and a few drops of water, and add 0.464 ml 1 N sodium hydroxide solution. Stir the mixture for 5 min, then concentrate by vacuum evaporation and dry the residue at high vacuum. 221 mg of the target compound is obtained.

reactant | 6-{[5-(4-methoxyphenyl)-6-phenylfuro[2,3-d]pyrimidin-4-yl]amino}hexanoic acid | 0.464 mmol, 200 mg | COC1=CC=C(C=C1)C1=C(OC=2N=CN=C(C21)NCCCCCC(=O)O)C2=CC=CC=C2 | C25H25N3O4
reactant | THF | 0.5 ml | C1CCOC1 | C4H8O
reactant | sodium hydroxide | 1 N, 0.464 ml | [OH-].[Na+]
solvent | methanol | 0.75 ml | CO | CH4O
catalyst | water | a few drops | O | H2O
product | 6-{[5-(4-Methoxyphenyl)-6-phenylfuro[2,3-d]pyrimidin-4-yl]amino}hexanoic acid sodium salt | 221 mg | [Na+].COC1=CC=C(C=C1)C1=C(OC=2N=CN=C(C21)NCCCCCC(=O)[O-])C2=CC=CC=C2 | InChI=1S/C25H25N3O4.Na/c1-31-19-13-11-17(12-14-19)21-22-24(26-15-7-3-6-10-20(29)30)27-16-28-25(22)32-23(21)18-8-4-2-5-9-18;/h2,4-5,8-9,11-14,16H,3,6-7,10,15H2,1H3,(H,29,30)(H,26,27,28);/q;+1/p-1
